* c:\fossee2\esim\library\subcircuitlibrary\sc_mc74hc595a\sc_mc74hc595a.cir

* u16  net-_u16-pad1_ net-_u16-pad2_ ? net-_u16-pad4_ net-_u16-pad5_ ? d_dff
* u17  net-_u16-pad5_ net-_u17-pad2_ ? net-_u16-pad4_ net-_u17-pad5_ ? d_dff
* u18  net-_u17-pad5_ net-_u10-pad2_ ? net-_u16-pad4_ net-_u18-pad5_ ? d_dff
* u19  net-_u18-pad5_ net-_u11-pad2_ ? net-_u16-pad4_ net-_u19-pad5_ ? d_dff
* u20  net-_u19-pad5_ net-_u12-pad2_ ? net-_u16-pad4_ net-_u20-pad5_ ? d_dff
* u21  net-_u20-pad5_ net-_u13-pad2_ ? net-_u16-pad4_ net-_u21-pad5_ ? d_dff
* u22  net-_u21-pad5_ net-_u14-pad2_ ? net-_u16-pad4_ net-_u22-pad5_ ? d_dff
* u33  net-_u16-pad5_ net-_u24-pad2_ ? ? ? net-_u33-pad6_ d_dff
* u35  net-_u17-pad5_ net-_u26-pad2_ ? ? ? net-_u35-pad6_ d_dff
* u36  net-_u18-pad5_ net-_u27-pad2_ ? ? ? net-_u36-pad6_ d_dff
* u37  net-_u19-pad5_ net-_u28-pad2_ ? ? ? net-_u37-pad6_ d_dff
* u38  net-_u20-pad5_ net-_u29-pad2_ ? ? ? net-_u38-pad6_ d_dff
* u39  net-_u21-pad5_ net-_u30-pad2_ ? ? ? net-_u39-pad6_ d_dff
* u40  net-_u22-pad5_ net-_u31-pad2_ ? ? ? net-_u40-pad6_ d_dff
* u4  net-_u1-pad13_ net-_u4-pad2_ d_inverter
* u2  net-_u1-pad12_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad14_ net-_u3-pad2_ d_inverter
* u7  net-_u3-pad2_ net-_u16-pad1_ d_inverter
* u6  net-_u1-pad10_ net-_u16-pad4_ d_inverter
* u5  net-_u1-pad11_ net-_u10-pad1_ d_inverter
* u23  net-_u22-pad5_ net-_u15-pad2_ ? net-_u16-pad4_ net-_u23-pad5_ ? d_dff
* u34  net-_u23-pad5_ net-_u25-pad2_ ? ? ? net-_u34-pad6_ d_dff
* u32  net-_u23-pad5_ net-_u32-pad2_ d_inverter
* u41  net-_u32-pad2_ net-_u1-pad9_ d_inverter
* u8  net-_u10-pad1_ net-_u16-pad2_ d_inverter
* u9  net-_u10-pad1_ net-_u17-pad2_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u11  net-_u10-pad1_ net-_u11-pad2_ d_inverter
* u12  net-_u10-pad1_ net-_u12-pad2_ d_inverter
* u13  net-_u10-pad1_ net-_u13-pad2_ d_inverter
* u14  net-_u10-pad1_ net-_u14-pad2_ d_inverter
* u15  net-_u10-pad1_ net-_u15-pad2_ d_inverter
* u25  net-_u2-pad2_ net-_u25-pad2_ d_inverter
* u50  net-_u42-pad2_ net-_u4-pad2_ net-_u1-pad7_ d_tristate
* u57  net-_u49-pad2_ net-_u4-pad2_ net-_u1-pad6_ d_tristate
* u43  net-_u33-pad6_ net-_u43-pad2_ d_inverter
* u51  net-_u43-pad2_ net-_u4-pad2_ net-_u1-pad15_ d_tristate
* u44  net-_u35-pad6_ net-_u44-pad2_ d_inverter
* u45  net-_u36-pad6_ net-_u45-pad2_ d_inverter
* u46  net-_u37-pad6_ net-_u46-pad2_ d_inverter
* u47  net-_u38-pad6_ net-_u47-pad2_ d_inverter
* u48  net-_u39-pad6_ net-_u48-pad2_ d_inverter
* u49  net-_u40-pad6_ net-_u49-pad2_ d_inverter
* u42  net-_u34-pad6_ net-_u42-pad2_ d_inverter
* u52  net-_u44-pad2_ net-_u4-pad2_ net-_u1-pad1_ d_tristate
* u53  net-_u45-pad2_ net-_u4-pad2_ net-_u1-pad2_ d_tristate
* u54  net-_u46-pad2_ net-_u4-pad2_ net-_u1-pad3_ d_tristate
* u55  net-_u47-pad2_ net-_u4-pad2_ net-_u1-pad4_ d_tristate
* u56  net-_u48-pad2_ net-_u4-pad2_ net-_u1-pad5_ d_tristate
* u24  net-_u2-pad2_ net-_u24-pad2_ d_inverter
* u26  net-_u2-pad2_ net-_u26-pad2_ d_inverter
* u27  net-_u2-pad2_ net-_u27-pad2_ d_inverter
* u28  net-_u2-pad2_ net-_u28-pad2_ d_inverter
* u29  net-_u2-pad2_ net-_u29-pad2_ d_inverter
* u30  net-_u2-pad2_ net-_u30-pad2_ d_inverter
* u31  net-_u2-pad2_ net-_u31-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
a1 net-_u16-pad1_ net-_u16-pad2_ ? net-_u16-pad4_ net-_u16-pad5_ ? u16
a2 net-_u16-pad5_ net-_u17-pad2_ ? net-_u16-pad4_ net-_u17-pad5_ ? u17
a3 net-_u17-pad5_ net-_u10-pad2_ ? net-_u16-pad4_ net-_u18-pad5_ ? u18
a4 net-_u18-pad5_ net-_u11-pad2_ ? net-_u16-pad4_ net-_u19-pad5_ ? u19
a5 net-_u19-pad5_ net-_u12-pad2_ ? net-_u16-pad4_ net-_u20-pad5_ ? u20
a6 net-_u20-pad5_ net-_u13-pad2_ ? net-_u16-pad4_ net-_u21-pad5_ ? u21
a7 net-_u21-pad5_ net-_u14-pad2_ ? net-_u16-pad4_ net-_u22-pad5_ ? u22
a8 net-_u16-pad5_ net-_u24-pad2_ ? ? ? net-_u33-pad6_ u33
a9 net-_u17-pad5_ net-_u26-pad2_ ? ? ? net-_u35-pad6_ u35
a10 net-_u18-pad5_ net-_u27-pad2_ ? ? ? net-_u36-pad6_ u36
a11 net-_u19-pad5_ net-_u28-pad2_ ? ? ? net-_u37-pad6_ u37
a12 net-_u20-pad5_ net-_u29-pad2_ ? ? ? net-_u38-pad6_ u38
a13 net-_u21-pad5_ net-_u30-pad2_ ? ? ? net-_u39-pad6_ u39
a14 net-_u22-pad5_ net-_u31-pad2_ ? ? ? net-_u40-pad6_ u40
a15 net-_u1-pad13_ net-_u4-pad2_ u4
a16 net-_u1-pad12_ net-_u2-pad2_ u2
a17 net-_u1-pad14_ net-_u3-pad2_ u3
a18 net-_u3-pad2_ net-_u16-pad1_ u7
a19 net-_u1-pad10_ net-_u16-pad4_ u6
a20 net-_u1-pad11_ net-_u10-pad1_ u5
a21 net-_u22-pad5_ net-_u15-pad2_ ? net-_u16-pad4_ net-_u23-pad5_ ? u23
a22 net-_u23-pad5_ net-_u25-pad2_ ? ? ? net-_u34-pad6_ u34
a23 net-_u23-pad5_ net-_u32-pad2_ u32
a24 net-_u32-pad2_ net-_u1-pad9_ u41
a25 net-_u10-pad1_ net-_u16-pad2_ u8
a26 net-_u10-pad1_ net-_u17-pad2_ u9
a27 net-_u10-pad1_ net-_u10-pad2_ u10
a28 net-_u10-pad1_ net-_u11-pad2_ u11
a29 net-_u10-pad1_ net-_u12-pad2_ u12
a30 net-_u10-pad1_ net-_u13-pad2_ u13
a31 net-_u10-pad1_ net-_u14-pad2_ u14
a32 net-_u10-pad1_ net-_u15-pad2_ u15
a33 net-_u2-pad2_ net-_u25-pad2_ u25
a34 net-_u42-pad2_ net-_u4-pad2_ net-_u1-pad7_ u50
a35 net-_u49-pad2_ net-_u4-pad2_ net-_u1-pad6_ u57
a36 net-_u33-pad6_ net-_u43-pad2_ u43
a37 net-_u43-pad2_ net-_u4-pad2_ net-_u1-pad15_ u51
a38 net-_u35-pad6_ net-_u44-pad2_ u44
a39 net-_u36-pad6_ net-_u45-pad2_ u45
a40 net-_u37-pad6_ net-_u46-pad2_ u46
a41 net-_u38-pad6_ net-_u47-pad2_ u47
a42 net-_u39-pad6_ net-_u48-pad2_ u48
a43 net-_u40-pad6_ net-_u49-pad2_ u49
a44 net-_u34-pad6_ net-_u42-pad2_ u42
a45 net-_u44-pad2_ net-_u4-pad2_ net-_u1-pad1_ u52
a46 net-_u45-pad2_ net-_u4-pad2_ net-_u1-pad2_ u53
a47 net-_u46-pad2_ net-_u4-pad2_ net-_u1-pad3_ u54
a48 net-_u47-pad2_ net-_u4-pad2_ net-_u1-pad4_ u55
a49 net-_u48-pad2_ net-_u4-pad2_ net-_u1-pad5_ u56
a50 net-_u2-pad2_ net-_u24-pad2_ u24
a51 net-_u2-pad2_ net-_u26-pad2_ u26
a52 net-_u2-pad2_ net-_u27-pad2_ u27
a53 net-_u2-pad2_ net-_u28-pad2_ u28
a54 net-_u2-pad2_ net-_u29-pad2_ u29
a55 net-_u2-pad2_ net-_u30-pad2_ u30
a56 net-_u2-pad2_ net-_u31-pad2_ u31
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u16 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u17 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u18 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u19 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u20 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u21 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u22 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u33 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u35 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u36 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u37 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u38 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u39 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u40 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u23 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u34 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u50 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u57 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u43 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u51 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u44 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u46 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u52 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u53 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u54 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u55 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u56 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
